US05306692
3-Chloro-4,5-difluorobenzotrifluoride (99 g) was dissolved in dry MBIK (100 cm3) and 25 drops of dry DMF and dry potassium carbonate (48 g) added. The mixture was stirred and brought to reflux when a solution of 4-methyl-3-nitrophenol (35 g) in dry MIBK (70 cm3) was added over 1 hour. When the addition was complete stirring and reflux were continued for 2 hours. The solvent was removed from the reaction mixture under vacuum and the residue triturated with water (500 cm3). The solid obtained was filtered off, washed with water and air dried. The crude solid was recrystallised from ethanol to give 4-(2-chloro-6-fluoro-4-trifluoromethylphenoxy)-2-nitrotoluene (73.5 g) as an off white solid, m.p. 112.8°-115.4° C.

reactant | 3-Chloro-4,5-difluorobenzotrifluoride | 99 g | ClC=1C=C(C=C(C1F)F)C(F)(F)F | C7H2ClF5
reactant | potassium carbonate | 48 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methyl-3-nitrophenol | 35 g | CC1=C(C=C(C=C1)O)[N+](=O)[O-] | C7H7NO3
catalyst | DMF | 25 drops | CN(C)C=O | C3H7NO
solvent | MIBK | 70 cm3 | CC(C)CC(=O)C | C6H12O
product | 4-(2-chloro-6-fluoro-4-trifluoromethylphenoxy)-2-nitrotoluene | 73.5 g | ClC1=C(OC2=CC(=C(C=C2)C)[N+](=O)[O-])C(=CC(=C1)C(F)(F)F)F | C14H8ClF4NO3
